US08133908B2
Description 35: methyl 3-amino-6-methyl-2-pyridinecarboxylate (D35)
Methyl 3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-2-pyridinecarboxylate D34 (1.3 g) was dissolved in DCM (80 ml) and the mixture stirred at 0° C. A solution of TFA (5 ml, 64.9 mmol) in DCM (10 ml) was dropped into the cold mixture over 3 minutes. The resulting solution was left under stirring at 0° C. for 30 minutes, then the mixture was left still at room temperature overnight. TFA (4 ml, 51.9 mmol) dissolved in DCM (10 ml) was added over 3 minutes and the mixture stirred again at room temperature for 5 hours. The solution was loaded onto an SCX-25 g column, the column was eluted and after evaporation under reduced pressure of the solvent it was obtained the title compound D35 (770 mg) was obtained as a white solid. UPLC (Basic GEN_QC): rt=0.44 minutes, peak observed: 167 (M+1). C8H10N2O2 requires 166. 1H NMR (400 MHz, CDCl3) δ ppm 7.14 (d, 1 H), 7.01 (d, 1 H), 3.99 (s, 3 H), 2.52 (s, 3 H).

reactant | Methyl 3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-2-pyridinecarboxylate | CC(C)(C)OC(=O)NC=1C(=NC(=CC1)C)C(=O)OC | C13H18N2O4
reactant | TFA | 64.9 mmol, 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 51.9 mmol, 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-amino-6-methyl-2-pyridinecarboxylate | NC=1C(=NC(=CC1)C)C(=O)OC | C8H10N2O2
